US07932272B2
Quinoline-6-carboxylic acid 3-(3-methylbutoxy)-benzylamide
To a mixture solution of quinoline-6-carboxylic acid 3-hydroxybenzylamide described in Preparation Example E+-4 (13 mg, 0.048 mmol) and N,N-dimethylformamide (0.5 mL) were added potassium carbonate (13 mg, 0.096 mmol) and 1-iodine-3-methylbutane (0.013 mL, 0.096 mmol), and the solution was stirred overnight at room temperature. Water and dichloromethane was added to the reaction solution for extraction, which was then washed with brine, then, the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate), and the title compound (12 mg, 0.033 mmol, 69%) was obtained as a colorless oil.

reactant | quinoline-6-carboxylic acid 3-hydroxybenzylamide | OC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C17H14N2O2
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.096 mmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Quinoline-6-carboxylic acid 3-(3-methylbutoxy)-benzylamide | 0.033 mmol, 12 mg, 69% | CC(CCOC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1)C | C22H24N2O2
